US04291042
5-Chloro-2-(1-[2-(indol-3-yl)ethyl]piperid-4-yl)-1H-isoindole-1,3-(2H)-dione.
4-Amino-1-[2-(indol-3-yl)ethyl]piperidine (3.86 g, 15.9 mmol) was dissolved in warm methyl cyanide (50 cm3) and a solution of 4-chlorophthalic anhydride (2.9 g, 15.9 mmol) in methyl cyanide (20 cm3) was added dropwise with stirring, to precipitate a solid. The suspension was stirred at room temperature overnight then cooled briefly in ice and the solid collected. This crude material was heated in acetic anhydride (70 cm3) for 21/2 hours then the solvent was evaporated. The residue was dissolved in methanol, to destroy excess acetic anhydride, then the methanol was evaporated. The residue was dissolved in very dilute aqueous acetic acid and the solution was basified by addition of conc. ammonia to precipitate a gum. The supernatant layer was decanted and the gum triturated with boiling ethanol and cooled in ice to give crystals of the title compound (2.82 g, 43.6%), m.p. 188°-190° C.

reactant | 4-Amino-1-[2-(indol-3-yl)ethyl]piperidine | 15.9 mmol, 3.86 g | NC1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C15H21N3
reactant | 4-chlorophthalic anhydride | 15.9 mmol, 2.9 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
solvent | methyl cyanide | 50 cm3 | CC#N | C2H3N
solvent | methyl cyanide | 20 cm3 | CC#N | C2H3N
product | 5-Chloro-2-(1-[2-(indol-3-yl)ethyl]piperid-4-yl)-1H-isoindole-1,3-(2H)-dione | 2.82 g, 43.6% | ClC=1C=C2C(N(C(C2=CC1)=O)C1CCN(CC1)CCC1=CNC2=CC=CC=C12)=O | C23H22ClN3O2
